US04985419
Triethylamine (8.4 cc) is added to a solution of ethyl 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboximidate dihydrochloride (13.63 g) in absolute ethanol (150 cc), and the reaction mixture is diluted with dry ethanol (100 cc). Gaseous ammonia is bubbled for 4 hours into the reaction mixture, which is then stirred for 12 hours at 25° C. The suspension obtained is filtered on sintered glass and the filtrate is concentrated to dryness at 25° C. under reduced pressure (30 mm Hg; 4 kPa) to give a yellow product of meringue-like consistency, which is purified by chromatography on a column of alumina (height: 23 cm; diameter: 4 cm), eluting with mixtures of methylene chloride and methanol in proportions of 95:5 (750 cc) and 50:50 (1,500 cc) and collecting 125-cc fractions. The first 900 cc of eluate are discarded and fractions 8 to 11 are combined and concentrated to dryness at 25° C. under reduced pressure (30 mm Hg; 4 kPa) to give 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride (4.5 g) in the form of a yellow product of meringue-like consistency.

reactant | Triethylamine | 8.4 cc | C(C)N(CC)CC | C6H15N
reactant | ethyl 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboximidate dihydrochloride | 13.63 g | Cl.Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(OCC)=N
solvent | ethanol | 150 cc | C(C)O | C2H6O
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride | 4.5 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)N | InChI=1S/C20H24N4S.ClH/c1-14(13-23-10-4-5-11-23)24-16-6-2-3-7-18(16)25-19-9-8-15(20(21)22)12-17(19)24;/h2-3,6-9,12,14H,4-5,10-11,13H2,1H3,(H3,21,22);1H
